US05100889
A. 3-[[Dimethyl(1,1,2-trimethylpropyl)-silyl]oxy]benzene bromide
To a stirred solution of 3-bromophenyl alcohol (5.0 g, 26.7 mmol) and triethylamine (3.25 g, 32.1 mmol) in anhydrous CH2Cl2 (125 mL) at room temperature under argon was added dropwise dimethylthexyl-silylchloride (5.26 g, 29.4 mmol). After 1.5 hours, 4-dimethylaminopyridine (0.50 g) was added and the stirring was continued for an additional 3 hours. The reaction mixture was diluted with hexane (200 mL) and the precipitate was filtered off. The filtrate was concentrated, partitioned between hexane (200 mL) and lN aqueous HCl (3×40 mL), and the organic layer was washed with saturated aqueous NaHCO3 (2×40 mL). The organic layer was dried (MgSO4), filtered and concentrated to yield title bromide (8.01 g, 91%).

reactant | 3-bromophenyl alcohol | 26.7 mmol, 5.0 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | triethylamine | 32.1 mmol, 3.25 g | C(C)N(CC)CC | C6H15N
reactant | dimethylthexyl-silylchloride | 29.4 mmol, 5.26 g | C[Si](C(C)(C)C(C)C)(C)Cl | C8H19ClSi
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.50 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 3-[[Dimethyl(1,1,2-trimethylpropyl)-silyl]oxy]benzene bromide | 8.01 g, 91% | [Br-].C[Si](OC=1C=CC=CC1)(C(C(C)C)(C)C)C | InChI=1S/C14H24OSi.BrH/c1-12(2)14(3,4)16(5,6)15-13-10-8-7-9-11-13;/h7-12H,1-6H3;1H/p-1
